US07661577B2
Synthesis of 2-phenyl-4-(2,4-dichlorophenyl)-5-methylimidazole
A suspension of 47.3 g (0.302 mol) of benzamidine hydrochloride, 16.3 g (0.302 mol) of sodium methylate in 250 ml of tetrahydrofuran was heated under reflux for 1 hour, and cooled to 25° C. A solution of 85.2 g (0.302 mol) of the above-mentioned crude 2-bromo-2′,4′-dichloropropiophenone in 160 ml of tetrahydrofuran was added dropwise in such a manner that the reaction temperature did not exceed 30° C. After the addition was complete, 16.3 g (0.302 mol) of sodium methylate was added, and the resultant was heated under reflux for 1 hour. Subsequently, the reaction solution was cooled to room temperature, and insolubles were then filtered off. The filtrate was evaporated to dryness under reduced pressure, to recover a residual solid. This solid was successively washed with water and toluene and then dried, to give 50.4 g (55.0% crude yield) of crude crystals of the desired product. The crude crystals were recrystallized using a mixture of acetonitrile and DMF, to give colorless purified crystals.

reactant | benzamidine hydrochloride | 0.302 mol, 47.3 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium methylate | 0.302 mol, 16.3 g | C[O-].[Na+]
reactant | 2-bromo-2′,4′-dichloropropiophenone | 0.302 mol, 85.2 g | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C | C9H7BrCl2O
reactant | sodium methylate | 0.302 mol, 16.3 g | C[O-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2-phenyl-4-(2,4-dichlorophenyl)-5-methylimidazole | C1(=CC=CC=C1)C=1NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C | C16H12Cl2N2
